US07432288B2
3-[(2-Acetyl-5-benzofuranyl)amino]-1-(2-methoxyethyl)-4-phenyl-1H-pyrrole-2,5-dione
3-Chloro-1-(2-methoxyethyl)-4-phenyl-1H-pyrrole-2,5-dione (0.26 mmol, 70 mg) and 1-(5-aminobenzo[b]furan-2-yl)ethan-1-one (0.53 mmol, 92 mg) was dissolved in dry CH3CN (2 mL) and the reaction mixture was subjected to microwave heating single node 150° C. for 15 min and purified on SiO2 (EtOAc:heptane, 1:1) to give 18 mg (15%) of the title compound. 1H NMR (400 MHz, CDCl3) δ 7.53 (bs, 1H), 7.40 (d, 1H), 7.24-7.09 (m, 5H), 7.06 (dd, 1H), 6.92 (d, 1H), 3.98 (t, J=5.6 Hz, 2H), 3.78 (t, J=5.6 Hz, 2H), 3.52 (s, 3H), 2.69 (s, 3H).

reactant | 3-Chloro-1-(2-methoxyethyl)-4-phenyl-1H-pyrrole-2,5-dione | 0.26 mmol, 70 mg | ClC=1C(N(C(C1C1=CC=CC=C1)=O)CCOC)=O | C13H12ClNO3
reactant | 1-(5-aminobenzo[b]furan-2-yl)ethan-1-one | 0.53 mmol, 92 mg | NC1=CC2=C(OC(=C2)C(C)=O)C=C1 | C10H9NO2
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | 3-[(2-Acetyl-5-benzofuranyl)amino]-1-(2-methoxyethyl)-4-phenyl-1H-pyrrole-2,5-dione | 18 mg, 15% | C(C)(=O)C=1OC2=C(C1)C=C(C=C2)NC=2C(N(C(C2C2=CC=CC=C2)=O)CCOC)=O | C23H20N2O5
